US04239769
N-Methoxyethyl-N'-[2-[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethyl]2-nitro-1,1-ethenediamine
2-[[[5-(N,N-Dimethylaminomethyl)2-thienyl]methyl]thio]ethanamine (4.3 g) and 1-nitro-2,2-bis(methylthio)ethylene (3.3 g) in ethanol (50 ml) were heated at reflux for 51/2 hr. Methoxyethylamine (1.8 ml) was added and the reaction heated at reflux for 22 hr. The solvent was removed and the residual oil was purified by column chromatography (silica/methanol). The resultant solid was recrystallised from isopropyl acetate to give the title compound as a white solid (1.04 g). m.p. 79°-80°. TLC silica/ethyl acetate, water, isopropanol, 0.88 ammonia 25:8:15:2, Rf 0.7.

reactant | 2-[[[5-(N,N-Dimethylaminomethyl)2-thienyl]methyl]thio]ethanamine | 4.3 g | CN(C)CC1=CC=C(S1)CSCCN | C10H18N2S2
reactant | 1-nitro-2,2-bis(methylthio)ethylene | 3.3 g | [N+](=O)([O-])C=C(SC)SC | C4H7NO2S2
reactant | Methoxyethylamine | 1.8 ml | COCCN | C3H9NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-Methoxyethyl-N'-[2-[[[5-(N,N-dimethylaminomethyl)2-thienyl]methyl]thio]ethyl]2-nitro-1,1-ethenediamine | 1.04 g | COCCNC(=C[N+](=O)[O-])NCCSCC=1SC(=CC1)CN(C)C | C15H26N4O3S2
